US04057647
1 g. of 3-(2',4'-difluoro-4-biphenylyl)butyronitrile and 6 ml. of acetic acid and 6ml. of concentrated hydrochloric acid are heated under reflux for 2 hours under nitrogen. The mixture is evaporated. The residue is dissolved in dilute NaOH and the solution is washed with ether and worked up in the customary manner to give 3-(2',4'-difluoro-4-biphenylyl)butyric acid, m.p. 109°-110°.

reactant | 3-(2',4'-difluoro-4-biphenylyl)butyronitrile | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC#N)C | C16H13F2N
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(2',4'-difluoro-4-biphenylyl)butyric acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC(=O)O)C | C16H14F2O2
